US08835428B2
Step 1: 3-(4-Nitro-phenyl)-5-phenyl-isoxazole-4-carboxylic acid ethyl ester
The title compound was prepared from N-hydroxy-4-nitro-benzimidoyl chloride and phenyl propionic acid ethyl ester by the same procedure as described for the synthesis of 3-(4-nitro-phenyl)-isoxazol-5-carboxylic acid ethyl ester in Example 1. The reaction mixture was refluxed for 16 hours instead of heating at 80° C. for 2.5 hours. The crude product was purified by flash chromatography over silica gel with 10-30% EtOAc in light petroleum to give the title compound in 40% yield. 1H NMR (DMSO-d6) δ: 0.98 (t, 3H), 4.11 (q, 2H), 7.53-7.61 (m, 3H), 7.87-7.93 (m, 4H), 8.32 (d, 2H); Mass (ES+), 339 (M++1).

reactant | N-hydroxy-4-nitro-benzimidoyl chloride | ON=C(C1=CC=C(C=C1)[N+](=O)[O-])Cl | C7H5ClN2O3
reactant | phenyl propionic acid ethyl ester | C(C)OC(C(C)C1=CC=CC=C1)=O | C11H14O2
reactant | 3-(4-nitro-phenyl)-isoxazol-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=NO1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H10N2O5
product | 3-(4-Nitro-phenyl)-5-phenyl-isoxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NOC1C1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C18H14N2O5
